US05117057
A solution of N'-t-butyl-N-(2-pyridinecarbonyl)hydrazine (1.0 g, 0.00518 mol) in 20 ml of toluene was treated dropwise simultaneously with a solution of sodium hydroxide (1.24 g of 50% aqueous solution) in 5 ml of water and 2-nitrobenzoyl chloride (0.96 g). The resulting mixture was stirred at 23° C. overnight. Water was added and the mixture was extracted with ether. A second extraction was performed with methylene chloride and the combined organic extracts were dried over magnesium sulfate. Evaporation afforded 0.4 g of N'-t-butyl-N-(2-pyridinecarbonyl)-N'-(2-nitrobenzoyl)hydrazine as a yellow solid. m.p. 137°-140° C.

reactant | N'-t-butyl-N-(2-pyridinecarbonyl)hydrazine | 0.00518 mol, 1.0 g | C(C)(C)(C)NNC(=O)C1=NC=CC=C1 | C10H15N3O
reactant | sodium hydroxide | 1.24 g | [OH-].[Na+]
reactant | 2-nitrobenzoyl chloride | 0.96 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 ml | O | H2O
product | N'-t-butyl-N-(2-pyridinecarbonyl)-N'-(2-nitrobenzoyl)hydrazine | 0.4 g | C(C)(C)(C)N(NC(=O)C1=NC=CC=C1)C(C1=C(C=CC=C1)[N+](=O)[O-])=O | C17H18N4O4
